Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm good." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ and Dr. ___ 
initial ___ consultation note dated
___. 
. 
Briefly, this is a ___ year old man unemployed, domiciled man, 
currently a ___ client, history of schizophrenia, s/p numerous 
psychiatric hospitalizations and prior suicide attempts, last 
psychiatric hospitalization approximately ___ years ago, who 
presented to ___ ___ via EMS after a bystander found him lying 
on the ground outside. Psychiatry was initially consulted for a 
safety assessment due to concerns for psychosis in the setting 
of medication noncompliance. 
. 
Initial interview in the ___ notable for patient admitting he has 
been off his medications for about one week with patient 
reporting feeling "symptoms" but with difficulty describing 
them. Reported hearing the voice of god speaking with him with 
some concerns for his safety. Patient appeared to be thought 
blocking with some psychomotor slowing. Collateral from family 
revealed the patient left home without explanation several days 
ago and that the family had not heard from him during that time. 

.
___ Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
Upon admission interview with Mr. ___, who was calm, 
cooperative but a notably unreliable historian, he reported he 
was doing "good." Stated that he came to the hospital because "I 
needed my meds and I was having problems... someone called." 
Stated he was lying in the streets and reported that he had
defecated himself but could not explain why he was in the street 
or why he may have defecated himself. 
. 
Patient reported that he lives in ___ with his parents 
and initially stated that he was "asked to leave but then they 
invited me back." Reported home life with his parents was 
"reasonable." Stated he "didn't do much" while at home, "mostly 
sit tight." Denies having hobbies. Reported having a diagnosis 
of "schizophrenia" but could not state what this meant to him. 
He does see a psychiatrist, Dr. ___, who is "reasonable" 
and whom he has seen for "quite a while." 
. 
Patient denied current AVH and denied paranoia. Denied thought 
insertion or broadcasting, but later stated that God speaks to 
him directly. Reported he "has the ability to ___ powers to 
others" but denies that this has changed recently. He did report 
his sleep recently has been a "little erratic." When asked how 
much sleep he was getting, he stated, "I don't know" and then 
went on a tangent about "system and ABS time vs. civil time-- 
it's all controlled by someone else and so I'm unsure how much 
time is going by." Reported poor energy but denied feeling 
tired. Reported some weight loss, unclear how much. Denied side 
effects from the medications, but stated he was not sure why he 
was taking them. 
. 
Patient reported that he ran out of his medications about 5 days 
ago and "I didn't have access to a pharmacy" and so he stopped 
taking them. In this setting, he reported that "God told me to 
leave home" and so he did. Denied SI/HI on examination. Denied 
history of manic symptoms including decreased need for sleep, 
excessive amounts of energy. Denied feeling anxious, 
ruminations.
Denied panic attacks. Denied depressed mood. Denied alcohol or 
drug use. Reported he felt safe in the hospital. Gave permission 
to allow me to contact his outpatient psychiatrist and parents. 
. 
With the patient's permission, I contacted his mother ___ 
___, who is also his legal guardian along with his father 
(copy of guardianship in chart): ___. Mother confirmed 
longstanding history of mental illness beginning in early ___ 
with diagnosis of schizophrenia. Reported that patient has been
doing relatively well and has DMH services but suddenly left the 
house as noted in the HPI. She reported he has been stable with 
last hospitalization about ___ years ago. Also reports he has DMH 
services. 

 
Past Medical History:
Past Psychiatric History: Per OMR, patient, mother
- ___: schizophrenia 
- SA/SIB: Mother reports approximately ___ prior suicide
attempts. Slit wrists in the past in early ___ with 
subsequent
psychiatric hospitalization. Another suicide attempt in ___ 
when
he stabbed himself in the chest (did not require surgical
intervention)  
- Hospitalizations: s/p numerous psychiatric hospitalizations
with first hospitalization in early ___ at ___. Also
hospitalized at ___ in the past. 
- Psychiatrist: Dr. ___ in ___, ___
- Therapist: none
- ___ Case Manager; ___ 
- Medication Trials: Zyprexa, Ativan, trazodone, Propanolol. Had
been on Clozaril but WBC dropped and so this was discontinued. 

Past Medical History: 
- None 
- PCP: Dr. ___ 

 
Social History:
Substance History: Per patient, OMR, mother 
- ___: reports drinking seldomly, but did drink beer 2 days 
ago to the point of intoxication. Mother reports the patient 
"loves to drink" and that he has 2 drinks per day. Denies 
history of withdrawal symptoms in the past.  
- Illicits: Denies 
- Tobacco: 1 pack daily, patient reports he recently quit 
.
Social History: ___
Family History:
Family History: per mother 
- ___: maternal grandfather with history of schizophrenia. 
Psychiatrist reports mother with history of bipolar disorder and 
father with history of psychosis
- Suicides: brother committed suicide about ___ years ago, but no 
known psychiatric diagnoses 
- Addictions: none 

 
Physical Exam:
Vital Signs: 97.8    113/76   92   16   94%RA    

Gen: Well nourished, in NAD
HEENT: normocephalic, atraumatic, MMM, PERRL
CV: S1, S2, no m/r/g
Pulm: CTAB, no w/r/r
Abd: non-distended, normoactive bowel sounds, non tender to
palpation 
Ext: WWP, hands are sunburnt, no blistering 
Neuro: no tremors or adventitious movements noted 

Mental Status Examination: 
A/B: Appears older than stated age, face and hands sunburnt,
dressed in hospital gown, disheveled, malodorous, withdrawn, 
some
psychomotor slowing, limited eye contact 
S: some paucity of speech, decreased prosody, normal volume 
M: "okay" 
A: flat
TC: see above 
TP: concrete 
C: awake, alert and oriented x3 
M: short and long term somewhat impaired
I/J: limited/limited

 
Pertinent Results:
___ 08:30AM   GLUCOSE-102* UREA N-13 CREAT-0.6 SODIUM-134* 
POTASSIUM-4.2 CHLORIDE-94* TOTAL CO2-20* ANION GAP-20*
___ 08:30AM   estGFR-Using this
___ 08:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:30AM   WBC-9.8 RBC-4.24* HGB-14.5 HCT-40.4 MCV-95 
MCH-34.2* MCHC-35.9 RDW-11.8 RDWSD-40.6
___ 08:30AM   PLT COUNT-267
 
Brief Hospital Course:
This is a ___ year old man with reported diagnosis of 
schizophrenia, s/p numerous psychiatric hospitalizations, who 
presented to ___ ___ via EMS after a
bystander found him lying on the ground outside. Psychiatry was 
initially consulted for a safety assessment due to concerns for 
psychosis in the setting of medication noncompliance. 
. 
History and presentation are consistent with chronic psychosis 
with negative symptoms (paucity of thought and speech, 
withdrawn, flat affect) with chronic AH and delusions as noted 
above (confirmed by mother). Nothing on exam or in history that 
would suggest history of prior mania, although there is some 
concern for history of depression in the past given history of 
prior suicide attempts (last in ___ per mother). On admission, 
patient denying depression, SI, thoughts of self harm. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission he signed a CV, which has been accepted. He 
maintained his safety throughout his hospitalization on 15 
minute checks and did not require physical or chemical 
restraints. 
. 
#. Schizophrenia: as noted above 
- Patient tended to be isolative to room and declined groups. 
- Collateral from her outpatient psychiatrist and mother 
revealed that patient suffers from chronic psychosis with 
delusion that god is communicating to him.
- Attempted to reach out to his ___ case worker, but was unable 
to reach him prior to discharge 
- After discussion of the risks and benefits, we restarted the 
patient's home medication including Zyprexa 50 mg po qhs, Ativan 
1 mg po tid prn and Trazodone 50 mg po qhs prn insomnia, 
Propanolol LA 60 mg po daily (prescribed for anxiety). He 
tolerated these medications well without complaints of side 
effects
- Upon re-initiation of medication regimen, patient's condition 
improved. Thought process was noted to be linear, goal oriented 
by time of discharge with no AVH. Continued to have persistent 
delusion that god was communicating with him. In addition, 
patient consistently denied SI/HI, or thoughts of self harm and 
he attended to his ADL's independently without difficulty. Of 
note, he declined discharge with increased supports, including a 
partial program.
. 
#. Alcohol use: with no signs or symptoms of withdrawal during 
my examination. Mother reported she was giving him 2 drinks per 
day but patient stated he was taking 4 shots per day. Did not 
show interest in AA but stated he was amenable to decreasing his 
alcohol intake upon discharge. 
. 
#. Medical: no acute issues during this admission 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 50 mg PO QHS 
2. LORazepam 1 mg PO TID 
3. Propranolol LA 60 mg PO DAILY 
4. TraZODone 50 mg PO QHS 

 
Discharge Medications:
1.  LORazepam 1 mg PO TID PRN anxiety, agitation, insomnia   
2.  TraZODone 50 mg PO QHS PRN insomnia   
3.  OLANZapine 50 mg PO QHS  
4.  Propranolol LA 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia 

 
Discharge Condition:
VS: 97.6 PO 124 / 86 75 17 98 R/A 
A/B: Appears older than stated age, dressed casually with good
grooming and hygiene, calm, cooperative with interviewer, good
eye contact, no psychomotor agitation or retardation noted. 
S: normal rate, volume, decreased prosody 
M: 'good' 
A: brighter, improved range 
TC: see above 
TP: concrete, mostly linear, goal oriented
C: awake, alert, responds to questions appropriately 
I/J: improved/improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___